US08252875B2
20 g of 2,6-diacetylpyridine (0.123 mol), 19.08 g of 2-chloro-4,6-dimethylaniline (0.123 mol) and 0.5 g of p-toluenesulfonic acid were heated under reflux on a water separator in 500 ml of heptane for 75 min. The insoluble solid was filtered off. The solvent was distilled off from the filtrate down to 150 ml, and the remaining filtrate was cooled to room temperature, while stirring. 25.3 g of a yellow solid precipitated out. This was filtered off and recrystallized from 60 ml of hot isopropanol. A total of 12.9 g (0.043 mol) of 1-{6-[1-(2-chloro-4,6-dimethylphenylimino)ethyl]-pyridin-2-yl}ethanone were obtained in a yield of 35%.

reactant | 2,6-diacetylpyridine | 0.123 mol, 20 g | C(C)(=O)C1=NC(=CC=C1)C(C)=O | C9H9NO2
reactant | 2-chloro-4,6-dimethylaniline | 0.123 mol, 19.08 g | ClC1=C(N)C(=CC(=C1)C)C | C8H10ClN
reactant | water | O | H2O
solvent | heptane | 500 ml | CCCCCCC | C7H16
catalyst | p-toluenesulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1-{6-[1-(2-chloro-4,6-dimethylphenylimino)ethyl]-pyridin-2-yl}ethanone | 0.043 mol, 12.9 g, yield of 35% | ClC1=C(C(=CC(=C1)C)C)N=C(C)C1=CC=CC(=N1)C(C)=O | C17H17ClN2O
